US04095019
Preparation of dimethyl-p-toluidinediacetate
Into a three-neck r.b. flask, fitted with stirring assembly, thermometer, reflux condenser, and a dropping funnel were placed 10.7g (0.1M) p-toluidine, 21.7g (0.2M) methylchloroacetate, 50 ml water, and 80 ml dioxane. The solution was heated to reflux and 32g of an aqueous solution containing 8g (0.2M) sodium hydroxide was added dropwise so as to maintain the charge at a neutral pH. Addition was completed within 11/2 hours. The flask was cooled to 5° C, and the product was poured into a 4 l. beaker. Upon addition of 3 l. of water, a ppt. formed which was discarded. Extraction of the aqueous phase with chloroform and stripping the extract gave 24.6g of light-yellow solid.

reactant | p-toluidine | 0.1M, 10.7g | NC1=CC=C(C=C1)C | C7H9N
reactant | methylchloroacetate | 0.2M, 21.7g | COC(CCl)=O | C3H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | dimethyl-p-toluidinediacetate | 24.6g | COC(CN(C1=CC=C(C=C1)C)CC(=O)OC)=O | C13H17NO4
